### PR TITLE
feat: discrete Fourier transform of a finite sequence

### PR DESCRIPTION
**Pull request by MohanadAhmed**
# Discrete Fourier Transform (DFT) Matrix and DFT of a (finite) sequence 
  
 This file defines the `dft` opertaion on a sequence (also a vecotr) and the DFT operation matrix 
  
 ## Main definitions 
  
  - `dft v`: given a sequence (v : (Fin n) → ℂ) we can transform it into a sequence (V : (Fin n) →ℂ) 
  such that 
  $$V [p] = ∑_{k = 0}^{N - 1} e^{-j*2πkp/n} v [k]$$ 
  - `idft V` : given a sequence (V : (Fin n) → ℂ) we can transform it into a sequence 
  (v : (Fin n) → ℂ) 
 such that 
 $$v [k] = \frac{1}{N}∑_{p = 0}^{n - 1} e^{j*2πkp/N} v [p]$$ 
 - `dftMatrix n` : the dft matrix of dimensions $n \times n$ with the `k, p` entry equal to 
 $$Wₙ[k, p] = e^{-j2πkp/n}$$ 
 - `(dftMatrix n)⁻¹` : the idft matrix of dimensions $n \times n$ with the `k, p` entry equal to 
 $$Wₙ[k, p] = (1/N) e^{j2πkp/n}$$ 
  
  
 ## Main results 
  
 - `dft v = (dftMatrix n) v` : the dft operation on a sequence is the same as the dft matrix applied to the vector 
 - `idft V = (dftMatrix n)⁻¹ V` : the idft operation on a sequence is the same as the idft matrix applied to the vector 
 - `dft (idft v) = dft ( idft v) = v` the dft and idft operations are inverses 
 - `Wₙ = vandermonde (w)` : the dft matrix is vandermonde with `w` being the first row of the dft matrix 
 - `circulant t = (dftMatrix n)⁻¹ ⬝ diagonal (dft t) ⬝ (dftMatrix n)` : a circulant matrix is diagonalizable by the dft and idft matrix pair.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 1]
```diff
@@ -0,0 +1,274 @@
...
+/-!
+# Discrete Fourier Transform (DFT) Matrix and DFT of a (finite) sequence
+
+This file defines the `dft` opertaion on a sequence (also a vecotr) and the DFT operation matrix
+
+## Main definitions
+
+ - `dft v`: given a sequence (v : (Fin n) → ℂ) we can transform it into a sequence (V : (Fin n) →ℂ)
+ such that
+ $$ V [p] = ∑_{k = 0}^{N - 1} e^{-j*2πkp/n} v [k] $$
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:25]:
```suggestion
 - `dft v`: The discrete fourier transform of `v` is given by:
 $$ V[p] = \sum_{k=0}^{N-1]} \zeta^k v(k) $$
```

and again similar below

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 2]
```diff
@@ -0,0 +1,274 @@
...
+ - `idft V` : given a sequence (V : (Fin n) → ℂ) we can transform it into a sequence
+ (v : (Fin n) → ℂ)
+such that
+$$ v [k] = ¼{1}{N}∑_{p = 0}^{n - 1} e^{j*2πkp/N} v [p] $$
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:29]: is that character at the start a ¼?

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 3]
```diff
@@ -0,0 +1,274 @@
...
+- `Wₙ` : the dft matrix with the `k, p` entry equal to
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:30]: I don't think this is like mathlib naming conventions at all

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 4]
```diff
@@ -0,0 +1,274 @@
...
+
+
+## Main results
+
+- `dft v = Wₙ v` : the dft operation on a sequence is the same as the dft matrix applied to the
+vector
+- `idft V = Wₙ⁻¹ V` : the idft operation on a sequence is the same as the idft matrix applied to the
+vector
+- `dft (idft v) = dft ( idft v) = v` the dft and idft operations are inverses
+- `Wₙ = vandermonde (w)` : the dft matrix is vandermonde with `w` being the first row of the dft
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:43]:
```suggestion
- `Wₙ = vandermonde w` : the dft matrix is vandermonde with `w` being the first row of the dft
```

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 5]
```diff
@@ -0,0 +1,274 @@
...
+$$ Wₙ[k, p] = (1/N) * e^{j2πkp/n} $$
+
+
+## Main results
+
+- `dft v = Wₙ v` : the dft operation on a sequence is the same as the dft matrix applied to the
+vector
+- `idft V = Wₙ⁻¹ V` : the idft operation on a sequence is the same as the idft matrix applied to the
+vector
+- `dft (idft v) = dft ( idft v) = v` the dft and idft operations are inverses
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:42]:
```suggestion
- `dft (idft v) = dft (idft v) = v` the dft and idft operations are inverses
```

Comment (ericrbg) [reply Mathlib/LinearAlgebra/Matrix/DFT.lean:42]: the spacing is weird elsewhere too

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 6]
```diff
@@ -0,0 +1,274 @@
...
+
+namespace DFT
+
+
+open Complex Matrix BigOperators Finset Real
+
+variable (n : ℕ) [NeZero n]
+
+/-- The DFT operation defined via a Sum -/
+noncomputable def dft (v : (Fin n) → ℂ) : (Fin n) → ℂ :=
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:58]:
```suggestion
noncomputable def dft (v : (Fin n) → ℂ) : Fin n → ℂ :=
```

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 7]
```diff
@@ -0,0 +1,274 @@
...
+idft matrix pair.
+
+-/
+
+namespace DFT
+
+
+open Complex Matrix BigOperators Finset Real
+
+variable (n : ℕ) [NeZero n]
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:55]: I don't see why you require `NeZero`, I know mathematically it doesn't matter but it will make things more annoying to use at the point of use

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 8]
```diff
@@ -0,0 +1,274 @@
...
+/-- A circulant matrix is diagonalized by the IDFT DFT matrix pair -/
+theorem circulant_dft  (t : Fin n → ℂ) :
+    circulant t = (Wₙ n)⁻¹ ⬝ (diagonal ( dft n t)) ⬝ (Wₙ n) := by
+  letI := invWₙ n
+  apply_fun ((Wₙ n) ⬝ ·)
+  dsimp
+  rw [Matrix.mul_assoc, Matrix.mul_inv_cancel_left_of_invertible]
+  funext a b
+  simp only [diagonal_mul, mul_apply, circulant_apply, Wₙ_apply, diagonal_apply, dft]
+  -- by_cases h : a = b
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:240]: please remove all random commented code unless you want us to take a look at it!

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 9]
```diff
@@ -0,0 +1,274 @@
...
+noncomputable def Wₙ  : Matrix (Fin n) (Fin n) ℂ :=
+Matrix.of (fun (k p : Fin n) => Complex.exp (2 * π * I * k * p / n))
+
+-- @[simp]
+lemma Wₙ_apply (k p: Fin n) : Wₙ n k p = exp (2 * π * I * k * p / n) := rfl
+
+lemma mod_eq_mod_neg (m a : ℤ) : Int.mod (-a) m = -Int.mod (a) m := by
+  rw [Int.mod_def, Int.mod_def, Int.neg_div, neg_sub', mul_neg, sub_neg_eq_add]
+
+lemma cexp_sub_ne_one {m : ℕ} [NeZero m](k p : Fin m) (h : ¬(k = p)) :
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:75]:
```suggestion
lemma cexp_sub_ne_one {m : ℕ} (k p : Fin m) (h : k ≠ p) :
```

You definitely don't need `NeZero m`; you can do the case split early in your proof, get an immediate contradiction from `k : Fin 0` and then prove everything as is.

I also think this is an insanely long result for this proof; something of this form should either be https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/RootsOfUnity/Complex.html or in the general RootsOfUnity file, and again making the whole wheel for yourself again probably wasted you a lot of time

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 10]
```diff
@@ -0,0 +1,274 @@
...
+fun p : Fin n =>  ∑ k : (Fin n),  ((Complex.exp (-2 * π * I * p * k / n))/ n) * (V k)
+
+/-- The DFT Matrix -/
+noncomputable def Wₙ  : Matrix (Fin n) (Fin n) ℂ :=
+Matrix.of (fun (k p : Fin n) => Complex.exp (2 * π * I * k * p / n))
+
+-- @[simp]
+lemma Wₙ_apply (k p: Fin n) : Wₙ n k p = exp (2 * π * I * k * p / n) := rfl
+
+lemma mod_eq_mod_neg (m a : ℤ) : Int.mod (-a) m = -Int.mod (a) m := by
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:72]: shouldn't be here; also may it be more profitable to use some other `mod` like `Int.fmod` or `%`?

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 11]
```diff
@@ -0,0 +1,274 @@
...
+lemma iWₙ_apply (k p : Fin n) : (Wₙ n)⁻¹ k p = exp (-2 * π * I * k * p / n)/n := by
+  letI := invWₙ n
+  rw [← Matrix.invOf_eq_nonsing_inv (Wₙ n), dftMatrix_inv, of_apply]
+
+/-- The DFT operation and DFT matrix applied to sequence/vector are tha same -/
+theorem dft_eq_Wₙ_mul (v : Fin n → ℂ) : dft n v = mulVec (Wₙ n) v := by
+  funext r
+  simp only [dft, mulVec, dotProduct, Wₙ_apply]
+
+/-- The IDFT operation and IDFT matrix applied to sequence/vector are tha same -/
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:154]:
```suggestion
/-- The IDFT operation and IDFT matrix applied to sequence/vector are the same -/
```

I think you've gone overboard on some docstrings and not enough on more complicated ones, or the ones that set up the definitions. Some theorems are fine without docstrings.

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 12]
```diff
@@ -0,0 +1,274 @@
...
+theorem idft_eq_iWₙ_mul (V : Fin n → ℂ ) : idft n V = mulVec (Wₙ n)⁻¹ V := by
+  funext r
+  simp only [idft, mulVec, dotProduct, iWₙ_apply]
+
+/-- IDFT/DFT are bijective pair-/
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:159]: This could be stated in terms of `Function.Right/LeftInverse`, I think

Comment (ericrbg) [reply Mathlib/LinearAlgebra/Matrix/DFT.lean:159]: Probably good to have the `Bijective` results, too

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 13]
```diff
@@ -0,0 +1,274 @@
...
+  ring_nf
+  exact (Nat.cast_ne_zero.2 (NeZero.ne _))
+
+/-- The DFT matrix is symmetric -/
+lemma Wₙ_transpose_eq_Wₙ : (Wₙ n)ᵀ = Wₙ n := by
+  funext a b
+  simp only [transpose_apply, Wₙ_apply]
+  ring_nf
+
+def shiftk (N : ℕ) (k : Fin N) : (Fin N → Fin N) := fun n : (Fin N) => (n - k)
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:184]: I'm fairly sure this exists somewhere in https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Fin.html

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 14]
```diff
@@ -0,0 +1,274 @@
...
+  simp_rw [ite_mul, zero_mul, sum_ite_eq, mem_univ, ite_true,
+    ← mul_inv_eq_iff_eq_mul₀ (Complex.exp_ne_zero _), ← Complex.exp_neg]
+  rw [mul_comm]
+  simp_rw [mul_sum, ← mul_assoc, ← Complex.exp_add, neg_add_eq_sub, ← sub_div, mul_assoc (2*π*I),
+    ← mul_sub]
+  let f := fun x : (Fin n) => (Complex.exp ( (2* π * I) * (a * (x))/n)) * (t (x))
+  have h1 : ∀ (x : Fin n), (shiftk_equiv (b)) x = x - b := by
+    intro x; unfold shiftk_equiv shiftk; simp only [sub_neg_eq_add, Equiv.coe_fn_mk]
+  have h2 : ∀ (x : Fin n), Complex.exp (2 * ↑π * I * (↑↑a * ((x:ℂ) - (b:ℂ))) / ↑n) =
+    Complex.exp ((2*π*I)*(a*(shiftk_equiv (b) x))/n) := by
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:250]: mathlib style is for spacing here, iot does make things a lot more readable, also we don't include brackets unless necessary / helps readability (e.g. if the priorities imply it but it's not obvious)

Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:250]:
```suggestion
    Complex.exp ((2 * π * I) * (a * (shiftk_equiv b x) / n) := by
```

**Review by ericrbg — COMMENTED** [review]
sorry, a lot of style and code nits!

File: Mathlib/LinearAlgebra/Matrix/DFT.lean (hunk 2 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/DFT.lean:29]: No it was supposed to be \frac

File: Mathlib/LinearAlgebra/Matrix/DFT.lean (hunk 3 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/DFT.lean:30]: Yes but it is the standard notation for the DFT matrix see (https://en.wikipedia.org/wiki/DFT_matrix)

File: Mathlib/LinearAlgebra/Matrix/DFT.lean (hunk 9 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/DFT.lean:75]: OK I implemented this suggestion

File: Mathlib/LinearAlgebra/Matrix/DFT.lean (hunk 3 above)
Comment (ericrbg) [reply Mathlib/LinearAlgebra/Matrix/DFT.lean:30]: sure, but standard for mathlib is to name it something like `dft_matrix` or the like (I'm not sure with the lean4 conventions) - we can note the normal maths names elsewhere

File: Mathlib/LinearAlgebra/Matrix/DFT.lean [hunk 15]
```diff
@@ -183,13 +189,13 @@ lemma Wₙ_transpose_eq_Wₙ : (Wₙ n)ᵀ = Wₙ n := by
 
 def shiftk (N : ℕ) (k : Fin N) : (Fin N → Fin N) := fun n : (Fin N) => (n - k)
 
-def shiftk_equiv {N: ℕ} [hN : NeZero N] (k : Fin N) : (Fin N) ≃ (Fin N) where
+def shiftk_equiv {N: ℕ} [NeZero N] (k : Fin N) : (Fin N) ≃ (Fin N) where
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/DFT.lean:192]: you don't need nezero in either this nor the theorem just below

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
